US04018913
C. N2 -(6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginyl-N-(2-ethylthioethyl)glycine
A solution of 5.0 g of N2 -(6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginyl-N-(2-ethylthioethyl)glycine tert-butyl ester in 10 ml of trifluoroacetic acid was stirred for 5 hours at room temperature. At the end of this period, the reaction mixture was evaporated to dryness. The residue was washed several times with dry diethyl ether and chromatographed on 80 ml of Daiaion SK 102 ion exchange resin (200-300 mesh, H+ form, manufactured by Mitsubishi Chemical Industries Limited) packed in water, washed with water and eluted with ethanol-H2O-NH4OH (5:4:1).

reactant | N2 (6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginyl-N-(2-ethylthioethyl)glycine tert-butyl ester | 5.0 g | N#N.C(C)(C)(C)OC(CN(CCSCC)C([C@@H](NS(=O)(=O)C1=CC2=CC(=C(C=C2C=C1)OC)OC)CCCNC(N)=N)=O)=O
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N2 (6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginyl-N-(2-ethylthioethyl)glycine | N#N.COC=1C=C2C=CC(=CC2=CC1OC)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)N(CC(=O)O)CCSCC | InChI=1S/C24H35N5O7S2.N2/c1-4-37-11-10-29(15-22(30)31)23(32)19(6-5-9-27-24(25)26)28-38(33,34)18-8-7-16-13-20(35-2)21(36-3)14-17(16)12-18;1-2/h7-8,12-14,19,28H,4-6,9-11,15H2,1-3H3,(H,30,31)(H4,25,26,27);/t19-;/m0./s1
